US09293712B2
Toluene (250 mL) was bubbled with nitrogen for 15 min, followed by addition of 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.0 g, 2.4 mmol) and Pd2(dba)3 (0.5 g, 0.6 mmol). The mixture was bubbled with nitrogen for 15 min, then [1,1′-biphenyl]-2-amine (3.4 g, 20.0 mmol), 4-cyclohexyl-6-iododibenzo[b,d]furan (7.5 g, 20.0 mmol), and sodium tert-butoxide (3.8 g, 40.0 mmol) were added. The mixture was bubbled with nitrogen for 15 min and refluxed for 24 h. After cooling, the reaction mixture was filtered through a silica pad and washed with 50% DCM/hexane. After cooling, the solvent was removed in vacuo and the residue was purified by flash chromatography using 15% DCM/hexane to yield N-([1,1′-biphenyl]-2-yl)-6-cyclohexyldibenzo[b,d]furan-4-amine (8.3 g, 100% yield) as a colorless oil.

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 2.4 mmol, 1.0 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | [1,1′-biphenyl]-2-amine | 20.0 mmol, 3.4 g | C=1(C(=CC=CC1)N)C1=CC=CC=C1 | C12H11N
reactant | 4-cyclohexyl-6-iododibenzo[b,d]furan | 20.0 mmol, 7.5 g | C1(CCCCC1)C1=CC=CC2=C1OC1=C2C=CC=C1I | C18H17IO
reactant | sodium tert-butoxide | 40.0 mmol, 3.8 g | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 0.6 mmol, 0.5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-([1,1′-biphenyl]-2-yl)-6-cyclohexyldibenzo[b,d]furan-4-amine | 8.3 g, 100% yield | C1(=C(C=CC=C1)NC1=CC=CC2=C1OC1=C2C=CC=C1C1CCCCC1)C1=CC=CC=C1 | C30H27NO
